US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 1-(3-chloropropyl)-3-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione gave 3-benzyl-1-(3-{4-(2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 168°-169° C.; Anal.: Calcd. for C27H31F3N4O3.(HCl)1.9 : C, 55.01; H, 5.69; N, 9.50%; Found: C, 54.95; H, 5.59; N, 9.43%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 1-(3-chloropropyl)-3-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C(C(=C1)C)=O)CC1=CC=CC=C1)=O | C15H17ClN2O2
product | 3-benzyl-1-(3-{4-(2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C=C(C1=O)C)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O | InChI=1S/C27H31F3N4O3.ClH/c1-21-18-33(26(36)34(25(21)35)19-22-8-3-2-4-9-22)13-7-12-31-14-16-32(17-15-31)23-10-5-6-11-24(23)37-20-27(28,29)30;/h2-6,8-11,18H,7,12-17,19-20H2,1H3;1H
